US07795283B2
ii) trans-Ethyl 2-[4-(4-hydroxyphenyl)cyclohexyl]propanoate
10% Palladium on carbon (250 mg) was added in one portion to a stirred solution of ethyl 2-[4-(4-hydroxyphenyl)cyclohexylidene]propanoate (6.9 g, 25.3 mmol) in EtOAc (50 mL) and the reaction mixture was stirred under a hydrogen atmosphere for 24 h. The reaction mixture was filtered and concentrated in vacuo to give a solid that was recrystallised from a mixture of isohexane and EtOAc (10:1) to give the title compound (2.2 g, 32%) as a solid; 1H NMR δ (CDCl3) 1.0-1.3 (2H, m), 1.08 (3H, d), 1.2 (3H, t), 1.3-1.45 (2H, m), 1.45-1.64 (2H, m), 1.65-1.75 (1H, m), 1.77-1.9 (3H, m), 2.15-2.26 (1H, m), 2.28-2.39 (1H, m), 4.1 (2H, q), 6.68 (2H, d), 7.0 (2H, d).

reactant | ethyl 2-[4-(4-hydroxyphenyl)cyclohexylidene]propanoate | 25.3 mmol, 6.9 g | OC1=CC=C(C=C1)C1CCC(CC1)=C(C(=O)OCC)C | C17H22O3
catalyst | Palladium on carbon | 250 mg | [Pd] | Pd
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | trans-Ethyl 2-[4-(4-hydroxyphenyl)cyclohexyl]propanoate | 2.2 g, 32% | OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C(C(=O)OCC)C | C17H24O3
